US08076482B2
Preparation of racemic (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one
A mixture of racemic (2′S, 3S, 4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (100 mg, 0.15 mmol) and P2S5 (70 mg, 0.31 mmol) was heated at 60° C. for 2 h, and then diluted with toluene (10 mL). The mixture was concentrated in vacuo and the residue was washed with DCM for 2 times. The DCM solution was combined and concentrated. The residue was purified by flash column to give the title compound as white solid (65 mg).

reactant | 6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl) spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.15 mmol, 100 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CCC)(CCC)C(=O)OCC)=O)C1=C(C=CC(=C1)F)C)=O | C35H37Cl2FN2O5
reactant | P2S5 | 0.31 mmol, 70 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-propyl-butoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)-6′-thioxo spiro[3H-indole-3,3′-piperidine]-2(1H)-one | 65 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CCC)(CCC)C(=O)OCC)=S)C1=C(C=CC(=C1)F)C)=O | C35H37Cl2FN2O4S
